US06903112B2
Preparation of 3-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-1H-indole
A mixture of indole (2 g, 17 mmol) and 1-benzyl-piperidin-3-one hydrochloride hydrate (7.7 g, 34 mmol) and 2N KOH/isopropanol is heated at 80° C. for 14 hours, cooled to room temperature, poured over ice/water and extracted with ethyl acetate. The extracts are combined, washed with water, dried over Na2SO4 and concentrated in vacuo to afford the title product, identified by HPLC and mass spectral analyses.

reactant | indole | 17 mmol, 2 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-benzyl-piperidin-3-one hydrochloride hydrate | 34 mmol, 7.7 g | O.Cl.C(C1=CC=CC=C1)N1CC(CCC1)=O
reactant | KOH isopropanol | 2N | [OH-].[K+].C(C)(C)O
product | 3-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-1H-indole | C(C1=CC=CC=C1)N1CC(=CCC1)C1=CNC2=CC=CC=C12 | C20H20N2
